US05422038
Then, 99 g (0.5 mole) of the compound (XLVII-1) was suspended in 1000 ml of ethanol, 9.5 g (0.25 mole) of sodium borohydride was added thereto, and the resulting mixture was stirred at room temperature for 5 hours. After completion of the reaction 1500 ml of toluene and 500 ml of water were added thereto to effect extraction, and the organic layer was separated. The organic layer was washed with water and then concentrated to obtain 100 g of 2-(3-hydroxybutyl)naphthalene (XII-2) (yield: 100%) as a pale yellow solid.

reactant | sodium borohydride | 0.25 mole, 9.5 g | [BH4-].[Na+]
reactant | toluene | 1500 ml | C1(=CC=CC=C1)C | C7H8
reactant | water | 500 ml | O | H2O
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | 2-(3-hydroxybutyl)naphthalene | 100 g, yield: 100% | OC(CCC1=CC2=CC=CC=C2C=C1)C | C14H16O
